US07326710B2
(IV-31) N1-phenacyl-N4-[2-(2-pyridylmethylamino)-2-oxo-ethyl]piperazine trihydrochloride
A mixture of 2-chloro-N-(pyridin-2-ylmethyl)acetamide (1.3 mmol), N-phenacyl piperazine dihydrochloride (1 mmol), and K2CO3 (8.75 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-31), 0.7 g (60.45%), M+ 381.

reactant | 2-chloro-N-(pyridin-2-ylmethyl)acetamide | 1.3 mmol | ClCC(=O)NCC1=NC=CC=C1 | C8H9ClN2O
reactant | N-phenacyl piperazine dihydrochloride | 1 mmol | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 8.75 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-phenacyl-N4-[2-(2-pyridylmethylamino)-2-oxo-ethyl]piperazine trihydrochloride | Cl.Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)CC(=O)NCC1=NC=CC=C1 | InChI=1S/C20H24N4O2.3ClH/c25-19(17-6-2-1-3-7-17)15-23-10-12-24(13-11-23)16-20(26)22-14-18-8-4-5-9-21-18;;;/h1-9H,10-16H2,(H,22,26);3*1H
